US04945090
382 mg of 5-(4-chlorophenoxy)-4-methoxymethyl-beta-carboline-3-carboxylic acid in 10 ml of dimethylformamide is mixed with 380 mg of carbonyldiimidazole. After 2 hours stirring at room temperature, 1 ml of isopropylamine is added and stirred overnight. After mixing with water, it is extracted with ethyl acetate. The ethyl acetate phase is dried, filtered and concentrated. The residue is chromatographed over silica gel with methylene chloride: acetone=1:1 as eluant. 90 mg of 5-(4-chlorophenoxy)-4-methoxymethyl-beta-carboline-3-carboxylic acid isopropylamide with a melting point of 255° C. is obtained.

reactant | 5-(4-chlorophenoxy)-4-methoxymethyl-beta-carboline-3-carboxylic acid | 382 mg | ClC1=CC=C(OC2=C3C=4C(=C(N=CC4NC3=CC=C2)C(=O)O)COC)C=C1 | C20H15ClN2O4
reactant | carbonyldiimidazole | 380 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | isopropylamine | 1 ml | C(C)(C)N | C3H9N
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-(4-chlorophenoxy)-4-methoxymethyl-beta-carboline-3-carboxylic acid isopropylamide | 90 mg | C(C)(C)NC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)OC1=CC=C(C=C1)Cl | C23H22ClN3O3
